Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
urinary incontinence
 
Major Surgical or Invasive Procedure:
suburethral sling
posterior repair
excision of prior sling segment
cystoscopy

 
History of Present Illness:
Mrs. ___ is a ___ yo Gravida 6 Para 6 who presents today in 
the office for a consultation requested by Dr. ___ 
urinary incontinence. She is complaining of mixed incontinence 
events (urgency > Stress) that have been worsening over the past 
___ years. She reports having a "mesh procedure" with Dr. ___ in 
___ for a " falling bladder". She reports improvement initially 
after the procedure but has had a return of her symptoms over 
the past ___ years.

She reports ___ incontinence events per day. She voids 10+ times 
per day and ___ times per night. She uses 4 pads per day. She 
admits to urgency, she denies any dysuria and reports bladder 
emptying with normal flow. She denies any hematuria, kidney 
stones or pyelonephritis. + UTI 4 months ago Mrs. ___ also 
admits to some vaginal pressure and denies any palpable 
prolapse.

She also denies any constipation. She is sexually active and 
does experience introital dyspareunia. She denies any vaginal 
dryness. She is otherwise without any other significant 
complaints.

 
Past Medical History:
PAST MEDICAL HISTORY:
  1. HTN
  2. Low back pain

PAST SURGICAL HISTORY
  1. Lap cholecystectomy
  2. Mesh procedure ___ Dr. ___

 
___ History:
___
Family History:
Her family history is unremarkable for Ovarian or Colon cancer.
+ Sister with ___ cancer

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, groin 
incisions c/d/i
Ext: no TTP
 
Pertinent Results:
n/a
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing a suburethral sling, posterior repair, excision 
of prior sling segment, and cystoscopy for SUI and rectocele. 
Please see the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol. 
Her diet was advanced without difficulty and she was 
transitioned to PO oxycodone, Tylenol, and ibuprofen for pain 
control. On post-operative day 1, her urine output was adequate 
and her Foley was removed with a voiding trial, the results of 
which are as follows:
1. Instilled 300 mL, voided 300 mL with 15 mL residual.

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
do not exceed 4g in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1
2. Cyclobenzaprine 10 mg PO TID 
RX *cyclobenzaprine 10 mg 1 tablet(s) by mouth three times a day 
Disp #*30 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*50 Tablet Refills:*1
4. Enalapril Maleate 10 mg PO DAILY 
5. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
may cause drowsiness. take with stool softener 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
7. Ranitidine 150 mg PO QD:PRN acid reflux 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
stress urinary incontinence
rectocele

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___